US07777047B2
ethyl 7-({[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-1H-indole-2-carboxylate (4.1 g) and pyridine (60 mL) was added 2-trifluoromethylbenzenesulfonyl chloride (5.0 g) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 18 hr. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate. The solution was washed with aqueous citric acid solution and saturated brine, and filtrated through silica gel. The eluate was concentrated under reduced pressure, and the obtained pale-brown oil was crystallized from ethyl acetate-hexane to give the title compound (7.3 g, yield 88%) as pale-brown crystals. MS: 413 (MH+). melting point: 138-139° C.

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 4.1 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | 2-trifluoromethylbenzenesulfonyl chloride | 5.0 g | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 7-({[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylate | 7.3 g, yield 88% | FC(C1=C(C=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC)(F)F | C18H15F3N2O4S
